US05608056
(2R,4R)-1-Allyloxycarbonyl-2-[2-(4-cyanoimidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine (13.4 g) was reacted with thioacetic acid (5.46 ml) and potassium t-butoxide (8.17 g) in substantially the same manner as Preparation 4-12) to give (2R,4S)-1-allyloxycarbonyl-4-acetylthio-2-[2-(4-cyanoimidazol-1-yl)ethyl]pyrrolidine (12.5 g) as a yellow paste.

reactant | (2R,4R)-1-Allyloxycarbonyl-2-[2-(4-cyanoimidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine | 13.4 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC(=C1)C#N | C15H20N4O5S
reactant | thioacetic acid | 5.46 ml | C(C)(=S)O | C2H4OS
reactant | potassium t-butoxide | 8.17 g | CC(C)([O-])C.[K+]
product | (2R,4S)-1-allyloxycarbonyl-4-acetylthio-2-[2-(4-cyanoimidazol-1-yl)ethyl]pyrrolidine | 12.5 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C)=O)CCN1C=NC(=C1)C#N | C16H20N4O3S
